US07582626B2
e) [7-(Methanesulfonyl-tert-butyloxycarbonyl-amino)-4-tert-butyloxycarbonyl-4H-benzo[1,4]thiazin-3-yl]-acetic acid ethyl ester
A solution of (7-methanesulfonylamino-4H-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester (2.2 g, 6.7 mmol) in anhydrous tetrahydrofuran (60 mL) was treated with di-tert-butyl-dicarbonate (3.2 g, 14.7 mmol) and 4-(dimethylamino)pyridine (0.82 g, 6.7 mmol). The reaction mixture was stirred at 25° C. under a nitrogen atmosphere for 3 h. The solvent was removed in vacuo and the residue was dissolved in dichloromethane. The resulting solution was washed with 1.0 M aqueous hydrochloric acid solution, the organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude oil was purified by flash column chromatography (Merck silica gel 60, 40-63 μm, ethyl acetate/hexanes) to afford the desired product, [7-(methanesulfonyl-tert-butyloxycarbonyl-amino)-4-tert-butyloxycarbonyl-4H-benzo[1,4]thiazin-3-yl]-acetic acid ethyl ester (1.59 g, 3.01 mmol, 45%) as a colorless resin. 1H NMR (400 MHz, CDCl3) δ 1.16 (t, 3H, J=7.0 Hz), 1.48 (s, 9H), 1.52 (s, 9H), 3.42 (s, 3H), 3.67 (bs, 2H), 4.07 (q, 2H, J=7.3 Hz), 6.26 (s, 1H), 7.09 (1,1H, J1=0.0 Hz, J2=0.0 Hz), 7.08-7.11 (m, 2H), 7.42 (d, 1H, J=7.8 Hz). LC-MS (ESI) calcd for C23H32N2O8S2 [M+H+] 529.16, found 429.48 [M-Boc+].

reactant | (7-methanesulfonylamino-4H-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester | 6.7 mmol, 2.2 g | C(C)OC(CC1=CSC2=C(N1)C=CC(=C2)NS(=O)(=O)C)=O | C13H16N2O4S2
reactant | di-tert-butyl-dicarbonate | 14.7 mmol, 3.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 6.7 mmol, 0.82 g | CN(C1=CC=NC=C1)C | C7H10N2
product | [7-(methanesulfonyl-tert-butyloxycarbonyl-amino)-4-tert-butyloxycarbonyl-4H-benzo[1,4]thiazin-3-yl]-acetic acid ethyl ester | 3.01 mmol, 1.59 g, 45% | C(C)OC(CC1=CSC2=C(N1C(=O)OC(C)(C)C)C=CC(=C2)N(C(=O)OC(C)(C)C)S(=O)(=O)C)=O | C23H32N2O8S2
